* Sensor input RC filter template
Vsig sig 0 PULSE(0 10 0 10u 10u 20m 40m)
Rsource sig node1 200
Rfilter node1 adc 4.7k
Cfilter adc 0 0.1u
Radc adc 0 1Meg
.tran 10u 100m
.meas tran adc_max MAX v(adc)
.meas tran adc_final FIND v(adc) AT=100m
.control
run
wrdata sensor_input_filter.csv time v(sig) v(adc)
.endc
.end
